US05585359
Step G: Preparation of N-{2(S)-[(4-Nitrobenzylthio)acetamido]-3(S)-methylpentyl}-N-(1-naphthylmethyl)-glycyl-methionine methyl ester
(4-Nitrobenzylthio)acetic acid (68 mg, 300 μmol), dissolved in DMF (4 mL), was treated with HOBT (51 rag, 300 μmol), EDC (65 mg, 300 μmol), and N-[2(S)-amino-3-methylpentyl)-N-(1-naphthylmethyl)-glycyl-methionine methyl ester hydrochloride (133 mg, 250 μmol). The pH was adjusted to 7.5 with Et3N (110 μL, 250 μmol) and the mixture was stirred at ambient temperature for 16 h. The mixture was concentrated and the residue was partitioned between EtOAc (100 mL) and H2O (100 mL). The organic layer was washed with H2O (2×50 mL), dried (MgSO4), filtered, and concentrated to give a crude product which was purified by chromatography (silica gel, eluting with 1:1 to 1:2 hexane: EtOAc) to provide the title compound. 1H NMR (CDCl3); δ0.89 (t, 3H, J=7.5 Hz), 0.91 (d, 3H, J=6.9 Hz), 1.02-1.19 (m, 1H), 1.37-1.6 (m, 2H), 1.67-1.79 (m, 1H), 1.85-1.98 (m, 1H), 1.95 (s, 3H), 2.0-2.1 (m, 3H), 2.74 (dd, 1H, J=3, 12 Hz), 2.86-3.01 (m, 3H), 3.21 (d, 1H, J=14 Hz), 3.29 (d, 1H, 14 Hz), 3.69 (s, 3H), 3.74 (d, 1H, J=12 Hz), 3.8 (d, 1H, J=12 Hz), 3.83-3.94 (m, 1H), 4.05 (d, 1H, J=9 Hz), 4.18 (d, 1H, J=9 Hz), 4.41-4.49 (m, 1H), 6.7 (d, 1H, J=8 Hz), 7.39-7.53 (m, 7H), 7.8-7.9 (m, 2H), 8.14-8.22 (m, 2H).

reactant | (4-Nitrobenzylthio)acetic acid | 300 μmol, 68 mg | [N+](=O)([O-])C1=CC=C(CSCC(=O)O)C=C1 | C9H9NO4S
reactant | HOBT | 300 μmol | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 300 μmol, 65 mg
reactant | N-[2(S)-amino-3-methylpentyl)-N-(1-naphthylmethyl)-glycyl-methionine methyl ester hydrochloride | 250 μmol, 133 mg | Cl.COC([C@@H](NC(CN(CC1=CC=CC2=CC=CC=C12)C[C@H](C(CC)C)N)=O)CCSC)=O
reactant | Et3N | 250 μmol, 110 μL | CCN(CC)CC | C6H15N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | N-{2(S)-[(4-Nitrobenzylthio)acetamido]-3(S)-methylpentyl}-N-(1-naphthylmethyl)-glycyl-methionine methyl ester | COC([C@@H](NC(CN(CC1=CC=CC2=CC=CC=C12)C[C@H]([C@H](CC)C)NC(CSCC1=CC=C(C=C1)[N+](=O)[O-])=O)=O)CCSC)=O | C34H44N4O6S2
